US08084614B2
To 3-bromo-4-chloro-N-(2-methoxy-phenyl)-N-methyl-benzamide (9.7 g, 27.4 mmol) in dioxane (150 mL), were added bis(pinacolato)diboron (10.4 g, 41.1 mol), potassium acetate (8.05 g, 82.2 mmol) and Pd(dppf)2Cl2. CH2Cl2 (1.1 g, 1.35 mmol). The mixture was bubbled with N2 for 10 min and then heated under N2 at 80° C. for 24 hrs. The mixture was cooled to room temperature, filtered through a silica gel pad, then concentrated. The resulting oil was purified by silica gel column chromatography eluting with ethyl acetate in hexanes from 20% to 30% to yield 4-chloro-N-(2-methoxy-phenyl)-N-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide (10.7 g). NMR (CDCl3), 6, 7.66 (1H, d, J=2.4 Hz), 7.32-7.23 (1H, m), 7.17-7.07 (2H, m), 7.02-6.95 (1H, m), 6.82-6.74 (2H, m), 3.74 (3H, s), 3.33 (3H, s), 1.30 (12H, s).

reactant | 3-bromo-4-chloro-N-(2-methoxy-phenyl)-N-methyl-benzamide | 27.4 mmol, 9.7 g | BrC=1C=C(C(=O)N(C)C2=C(C=CC=C2)OC)C=CC1Cl | C15H13BrClNO2
reactant | bis(pinacolato)diboron | 41.1 mol, 10.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 82.2 mmol, 8.05 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 1.35 mmol, 1.1 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-chloro-N-(2-methoxy-phenyl)-N-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | 10.7 g | ClC1=C(C=C(C(=O)N(C)C2=C(C=CC=C2)OC)C=C1)B1OC(C(O1)(C)C)(C)C | C21H25BClNO4
